US06258908B1
Cyclopentene/3-Methylcyclopentene Copolymer
Inside a nitrogen purged drybox, the palladium catalyst, {[ (2,6-iPr2Ph)2DABMe2]Pd(CH2CH2CH2CO2Me)}BAF (77 mg, 0.053 mmol) was dissolved in CH2Cl2 (2 ml) and cyclopentene (2 ml) and 3-MeCyp (1 ml) added. The solution was stirred for 4 days after which the volatiles were removed. MeOH was added and the polymer filtered, washed well with MeOH and finally with 2% Irganox® 1010/acetone solution and dried. Yield=1.06 g. Tm (DSC)=210.5° C., Tg (DSC)=73° C. 13C-NMR (TCB, 120° C.) indicated 5% 3-MeCyp incorporation.

reactant | cyclopentene | 2 ml | C1=CCCC1 | C5H8
reactant | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium | [Pd] | Pd
product | Cyclopentene 3-Methylcyclopentene | C1=CCCC1.CC1C=CCC1 | InChI=1S/C6H10.C5H8/c1-6-4-2-3-5-6;1-2-4-5-3-1/h2,4,6H,3,5H2,1H3;1-2H,3-5H2
